US07629473B2
Synthesis of [3-(2-bromo-phenyl)-propyl]-methyl-carbamic acid tert-butyl ester (Method 10.)
Methyl amine (8M in ethanol, 38 mL, 304 mmol) is added to 3-(2-bromo-phenyl)-propionaldehyde (6.32 g, 29.7 mmol) and sodium cyanoborohydride (2.24 g, 35.6 mmol) in methanol. The reaction mixture is cooled to 0° C. and acetic acid is added slowly until pH<7. The reaction mixture is stirred for ½ hour and neutralized with aqueous sodium hydroxide. Methanol is removed in vacuo and ethyl acetate and brine are added. The aqueous phase is extracted with ethyl acetate and the combined organic phases are dried with MgSO4 and concentrated in vacuo. The residue is dissolved in THF (150 mL) and di-tert-butyl dicarbonate (7.2 g, 33 mmol) and triethyl amine (5.2 mL, 37.1 mmol) are added. The reaction mixture is stirred for 2 hours, filtered through silica gel and concentrated in vacuo. The residue is purified by flash chromatography (silica gel, ethyl acetate/heptane) to give 3.23 g (33%) of the title compound.

reactant | Methyl amine | 304 mmol, 8M, 38 mL | CN | CH5N
reactant | 3-(2-bromo-phenyl)-propionaldehyde | 29.7 mmol, 6.32 g | BrC1=C(C=CC=C1)CCC=O | C9H9BrO
reactant | sodium cyanoborohydride | 35.6 mmol, 2.24 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 33 mmol, 7.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethyl amine | 37.1 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [3-(2-bromo-phenyl)-propyl]-methyl-carbamic acid tert-butyl ester | 3.23 g, 33% | C(C)(C)(C)OC(N(C)CCCC1=C(C=CC=C1)Br)=O | C15H22BrNO2
